US08022222B2
Using the method of Example 3, Step A, 3-methoxybenzenethiol (884 mg, 6.31 mmol), 60% sodium hydride in mineral oil (252 mg, 6.31 mmol), and 2-chloro-4-nitropyridine (1.00 g, 6.31 mmol) were reacted to provide 2-chloro-4-(3-methoxyphenylthio)pyridine (1.51 g, 95% yield) as an oil. 1H NMR (CDCl3) δ 8.12 (d, 1H), 7.39 (t, 1H), 7.13 (d, 1H), 7.08 (s, 1H), 7.03 (d, 1H), 6.93 (s, 1H), 6.88 (d, 1H), 3.83 (s, 3H).

reactant | 3-methoxybenzenethiol | 6.31 mmol, 884 mg | COC=1C=C(C=CC1)S | C7H8OS
reactant | sodium hydride | [H-].[Na+]
reactant | 2-chloro-4-nitropyridine | 6.31 mmol, 1.00 g | ClC1=NC=CC(=C1)[N+](=O)[O-] | C5H3ClN2O2
product | 2-chloro-4-(3-methoxyphenylthio)pyridine | 1.51 g, 95% yield | ClC1=NC=CC(=C1)SC1=CC(=CC=C1)OC | C12H10ClNOS
